US06521666B1
2,6-Dimethoxybenzeneboronic acid (0.5 g) was dissolved in DME (10 mL). To the solution was added K2CO3 (0.7 g), N-(tert-butoxycarbonyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester (0.4 g), Pd(Ph3P)4 (0.6 g) and water (0.2 mL). The resulting mixture was heated to 80° C. overnight. Subsequently EtOAc and water were added to the mixture. The EtOAc layer was dried (MgSO4) and evaporated. The residue was purified by flash column chromatography (silica gel; eluent: EtOAc/hexane 1:2) to give N-(tert-butoxycarbonyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (380 mg).

reactant | 2,6-Dimethoxybenzeneboronic acid | 0.5 g | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
reactant | K2CO3 | 0.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(tert-butoxycarbonyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester | 0.4 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C16H20F3NO7S
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 0.2 mL | O | H2O
product | N-(tert-butoxycarbonyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 380 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C23H29NO6
